US05688799
A mixture of intermediate (6) (0.009 mol), 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole monohydrochloride (0.009 mol) and sodium carbonate (0.025 mol) in N,N-dimethylformamide (50 ml) was stirred for 6 hours at 80°-90° C. The reaction mixture was cooled to room temperature and the precipitate was filtered off, stirred in water and filtered off again. The solid was crystallized from N,N-dimethylformarnide/H2O. The crystals were filtered off and dried, yielding 1.9 g (48%) of 3-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-9-methoxy-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one; mp. 209.3° C. (comp. 1).

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole monohydrochloride | 0.009 mol | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | sodium carbonate | 0.025 mol | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-9-methoxy-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 1.9 g, 48% | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC2=C(N=C3N(C2=O)C=CC=C3OC)C)C=C1 | C24H25FN4O3
